US03959409
With the aid of a catalyst of 0.014 part by weight of the TiCl3 . 0.33 AlCl3 described in Example 1 and 0.022 part by weight of diethylaluminum chloride, 20 parts by weight of propene (99%) is polymerized under a pressure of 14-9 atm. gauge and a temperature of 70° C. after adding 0.00015 part by weight of hydrogen in 60 parts by weight of a butene-2-rich C4 -cut containing 0.4% of butene-1. After a polymerization period of 6 hours, 1.0 part by weight of ethene is introduced under pressure, and the polymerization is containued for another 4 hours. After passing the reaction mixture through nozzles in the presence of 0.1 part by weight of steam, a propene-ethene-butene-1 terpolymer is obtaining having the properties as shown in the Table.

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | diethylaluminum chloride | [Cl-].C(C)[Al+]CC
reactant | propene | C=CC | C3H6
reactant | hydrogen | [H][H] | H2
reactant | butene-2 | C/C=C/C | C4H8
reactant | butene-1 | CCC=C | C4H8
reactant | ethene | C=C | C2H4
product | propene ethene butene-1 | C=CC.C=C.CCC=C | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
